US07517899B2
(2S,3S)-3-(1H-indol-1-yl)-3-thien-2-ylpropane-1,2-diol (250 mg, 0.91 mmol) was dissolved in pyridine (3 mL), para-toluenesulfonyl chloride (216 mg, 1.13 mmol) was added and the mixture was stirred for 2 hours. The mixture was diluted with ethyl acetate and washed with water, a saturated aqueous solution of copper sulfate, and saturated brine. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified via Isco chromatography (Redisep, silica, gradient 0%-100% ethyl acetate in hexane) to afford 360 mg that was immediately dissolved in methylamine (8M solution in ethanol, 15 mL) and stirred for 16 hours. The mixture was concentrated in vacuo and purified via flash column chromatography (silica, gradient 2%-10% methanol saturated with ammonia in chloroform) to give 180 mg of (1S,2R)-1-(1H-indol-1-yl)-3-(methylamino)-1-(2-thienyl)propan-2-ol as a colorless oil. The freebase was dissolved in ether (5 mL) and treated with a 1N ethereal solution of hydrochloric acid (0.63 mL, 0.63 mmol, 1 equivalent). The white precipitate was collected and dried under vacuum to give 193 mg (60%) of (1S,2R)-1(1H-indol-1-yl)-3-(methylamino)-1-(2-thienyl)propan-2-ol hydrochloride. HRMS: calcd for C16H18N2OS+H+, 287.12126; found (ESI, [M+H]+), 287.1204

reactant | (2S,3S)-3-(1H-indol-1-yl)-3-thien-2-ylpropane-1,2-diol | 0.91 mmol, 250 mg | N1(C=CC2=CC=CC=C12)[C@@H]([C@@H](CO)O)C=1SC=CC1 | C15H15NO2S
reactant | para-toluenesulfonyl chloride | 1.13 mmol, 216 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylamine | 8M, 15 mL | CN | CH5N
product | (1S,2R)-1-(1H-indol-1-yl)-3-(methylamino)-1-(2-thienyl)propan-2-ol | 180 mg | N1(C=CC2=CC=CC=C12)[C@@H]([C@@H](CNC)O)C=1SC=CC1 | C16H18N2OS
